US06403595B1
4-Benzyloxycarbonyl-1-[4-(4-pyridyl)benzyl]-2-piperazinone
A mixture of 4-benzyloxycarbonyl-1-(4-bromobenzyl)-2-piperazinone (807 mg), 4-pyridylboric acid (244 mg), tetrakis (triphenylphosphine)palladium (69 mg), 2M sodium carbonate solution (2 ml), toluene (8 ml) and ethanol (2 ml) was refluxed overnight. After the mixture was cooled, ethyl acetate was added to the reaction solution. The mixture was washed with water and saturated brine, dried (MgSO4) and concentrated. The residue was purified with silica gel column chromatography (ethyl acetate) to give colorless crystals of the title compound (283 mg).

reactant | 4-benzyloxycarbonyl-1-(4-bromobenzyl)-2-piperazinone | 807 mg | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC=C(C=C1)Br)=O | C19H19BrN2O3
reactant | 4-pyridylboric acid | 244 mg | N1=CC=C(C=C1)OB(O)O | C5H6BNO3
reactant | sodium carbonate | 2M, 2 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-Benzyloxycarbonyl-1-[4-(4-pyridyl)benzyl]-2-piperazinone | 283 mg | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC=C(C=C1)C1=CC=NC=C1)=O | C24H23N3O3
